US07053212B2
Step C: N-(2-Chloro-4-hydroxy-benzyl)-N-(4-iodo-phenyl)-2,4,6-trimethyl-benzenesulfonamide
To a solution of N-[2-chloro-4-(tetrahydro-pyran-2-yloxy)-benzyl]-N-(4-iodo-phenyl)-2,4,6-trimethyl-benzenesulfonamide (1.13 g, 1.80 mmol) in 1 mL tetrahydrofuran and 2 mL methanol was added HCl (4.5 mL of a 4.0 M solution in 1,4-dioxane, 18.05 mmol) and triethylsilane (2.88 mL, 18.05 mmol). The reaction mixture was stirred at room temperature overnight. Additional HCl (1 mL of a 4.0 M solution in 1,4-dioxane, 4 mmol) was added and the reaction mixture was stirred at room temperature for 2 days. Saturated aqueous sodium bicarbonate was added and the mixture was extracted with methylene chloride. The organic layer was dried (magnesium sulfate) and concentrated. Medium pressure silica gel chromatography of the residue (methylene chloride) afforded 0.70 g (72%) of the title compound of Step C.

reactant | N-[2-chloro-4-(tetrahydro-pyran-2-yloxy)-benzyl]-N-(4-iodo-phenyl)-2,4,6-trimethyl-benzenesulfonamide | 1.80 mmol, 1.13 g | ClC1=C(CN(S(=O)(=O)C2=C(C=C(C=C2C)C)C)C2=CC=C(C=C2)I)C=CC(=C1)OC1OCCCC1 | C27H29ClINO4S
reactant | HCl | Cl | ClH
reactant | triethylsilane | 18.05 mmol, 2.88 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-(2-Chloro-4-hydroxy-benzyl)-N-(4-iodo-phenyl)-2,4,6-trimethyl-benzenesulfonamide | 0.70 g, 72% | ClC1=C(CN(S(=O)(=O)C2=C(C=C(C=C2C)C)C)C2=CC=C(C=C2)I)C=CC(=C1)O | C22H21ClINO3S
